US03970757
Sodium hydride (1.20g; 50% dispersion in oil) was added to a solution of 3-tert-butyl-1,2,3,4-tetrahydrocarbazole (5.68g) in dry dimethylformamide (25ml) and the mixture was heated over a steam bath for 1/2 hour. 2-Pyrrolidinoethyl chloride (3.34g) was then added, and the mixture was heated over the steam bath for a further 4 hours. Thereafter the mixture was cooled at room temperature, allowed to stand for about 16 hours, and poured into water. The aqueous mixture was extracted with diethyl ether, and the ethereal solution was evaporated in vacuo to afford 3-tert-butyl-9-(2-pyrrolidinoethyl)-1,2,3,4-tetrahydrocarbazole as an oil. The latter was distilled under reduced pressure, the principal fraction collected having a b.p. of 185°-195°C/0.05mm. mercury pressure.

reactant | Sodium hydride | 1.20g | [H-].[Na+]
reactant | 3-tert-butyl-1,2,3,4-tetrahydrocarbazole | 5.68g | C(C)(C)(C)C1CCC=2NC3=CC=CC=C3C2C1 | C16H21N
reactant | 2-Pyrrolidinoethyl chloride | 3.34g | N1(CCCC1)CCCl | C6H12ClN
reactant | water | O | H2O
solvent | dimethylformamide | 25ml | CN(C=O)C | C3H7NO
product | 3-tert-butyl-9-(2-pyrrolidinoethyl)-1,2,3,4-tetrahydrocarbazole | C(C)(C)(C)C1CCC=2N(C3=CC=CC=C3C2C1)CCN1CCCC1 | C22H32N2
